US06143747
A 100 mL Fisher/Porter vessel was charged with benzyl 3-[(4-methylpiperizin-1-yl)sulfonyl]-2(R)-methylpropionate in 15 mL MeOH with a catalytic amount of 10% Pd-C. Hydrogenation at 50 psi for 48 hours afforded, after filtration through Celite and concentration in vacuo to yield 3-[(4-methylpiperizin-1-yl)sulfonyl]-2(R)-methylpropionic acid as a hygroscopic foam suitable for use without further purification.

reactant | benzyl 3-[(4-methylpiperizin-1-yl)sulfonyl]-2(R)-methylpropionate | CN1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C16H24N2O4S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | 3-[(4-methylpiperizin-1-yl)sulfonyl]-2(R)-methylpropionic acid | CN1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C | C9H18N2O4S
